US07288548B2
Oxalyl chloride (3.3 mL, 2M in CH2Cl2, 6.42 mmol) was stirred in dichloromethane (3 mL) in a three-necked flask. The reaction mixture was cooled to −78° C., and dimethyl sulfoxide (0.91 mL, 12.85 mmol) was added so that the internal temperature did not exceed −65° C. The reaction mixture was then stirred for 15 minutes. The (3R,4S)-3-hydroxymethyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester (713 mg, 2.57 mmol) in dichloromethane (6 mL) was added dropwise keeping the internal temperature below −65° C. and then stirred for 15 minutes. Diisopropylethylamine (4.5 mL, 25.7 mmol) was added keeping the internal temperature below −65° C. and then stirred for 20 minutes. The cooling bath was removed and the reaction mixture was stirred at room temperature for 2h. The reaction mixture was concentrated to give a colorless oil, which was purified by flash silica gel chromatography eluting with ethyl acetate:hexanes (1:4) to give 496 mg (70%) of (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | Oxalyl chloride | 6.42 mmol, 2M, 3.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 12.85 mmol, 0.91 mL | CS(=O)C | C2H6OS
reactant | (3R,4S)-3-hydroxymethyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.57 mmol, 713 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CO | C16H23NO3
reactant | Diisopropylethylamine | 25.7 mmol, 4.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 496 mg, 70% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)C=O | C16H21NO3
